US08664233B2
8.0 g (32 mmol) 3-amino-7-bromo-1H-indole-2-carboxylic acid amide was suspended in 50 ml dioxan, and refluxed after the addition of 3.8 ml (32 mmol) diphosgene for 3 h. Having cooled down to room temperature, 20 ml water was carefully added and the precipitate was then sucked off. 9.0 g (32%) 6-bromo-1H-pyrimido[5,4-b]indole-2,4(3H,5H)-dione was obtained. ESI-MS [m/z]: 278, 280 [M−H]−

reactant | 3-amino-7-bromo-1H-indole-2-carboxylic acid amide | 32 mmol, 8.0 g | NC1=C(NC2=C(C=CC=C12)Br)C(=O)N | C9H8BrN3O
reactant | diphosgene | 32 mmol, 3.8 ml | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | water | 20 ml | O | H2O
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 6-bromo-1H-pyrimido[5,4-b]indole-2,4(3H,5H)-dione | 9.0 g, 32% | BrC1=CC=CC=2C3=C(NC12)C(NC(N3)=O)=O | C10H6BrN3O2
